US06632824B2
6,8-Dimethoxyquinoline
2,4-Dimethoxyaniline (20.0 g, 131 mmol), 8.70 mL (7.30 g, 131 mmol) acrolein and 500 mL 1 N HCl are refluxed for 30 min. The reaction mixture is cooled to 23° C., poured into 200 mL of vigorously stirring EtOAc, and neutralized with 10N NaOH. The resulting bi-phasic solution is stirred for 30 min and filtered through celite. The layers are separated, and the aqueous layer is extracted with 3×300 mL EtOAc. The combined organics are washed with 1×400 mL H2O, 1×400 mL brine, dried over MgSO4, filtered, and the volatiles are evaporated. Flash chromatography on SiO2, eluting with 4/1 EtOAc/hexanes containing 10% MeOH, gives 6.40 g (33.8 mmol, a 26% yield) of the title compound as an off-white solid. MS (ES) m/z 190 (MH)+.

reactant | 2,4-Dimethoxyaniline | 131 mmol, 20.0 g | COC1=C(N)C=CC(=C1)OC | C8H11NO2
reactant | acrolein | 131 mmol, 8.70 mL, 7.30 g | C(=O)C=C | C3H4O
reactant | HCl | 1 N, 500 mL | Cl | ClH
reactant | NaOH | 10N | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6,8-Dimethoxyquinoline | 26% yield | COC=1C=C2C=CC=NC2=C(C1)OC | C11H11NO2
